US05045557
1-(Dimethylsulphamoyl)-2-formyl-4-(2,3,4-trichlorophenyl)imidazole was reacted with O-allylhydroxylamine hydrochloride in a similar manner to the reaction with hydroxylamine hydrochloride described in Example 1, to give 2-allyloxyiminomethyl-1-(dimethylsulphamoyl)-4-(2,3,4-trichlorophenyl)imidazole, m.p. 87°-88°. (Compound 9)

reactant | 1-(Dimethylsulphamoyl)-2-formyl-4-(2,3,4-trichlorophenyl)imidazole | CN(S(=O)(=O)N1C(=NC(=C1)C1=C(C(=C(C=C1)Cl)Cl)Cl)C=O)C | C12H10Cl3N3O3S
reactant | O-allylhydroxylamine hydrochloride | Cl.C(C=C)ON
reactant | hydroxylamine hydrochloride | Cl.NO
product | 2-allyloxyiminomethyl-1-(dimethylsulphamoyl)-4-(2,3,4-trichlorophenyl)imidazole | C(C=C)ON=CC=1N(C=C(N1)C1=C(C(=C(C=C1)Cl)Cl)Cl)S(N(C)C)(=O)=O | C15H15Cl3N4O3S
